US06955851B2
A mixture of bis(4-methoxyphenyl)(4-methylphenyl)phosphine oxide mixture (470.2 g, 1.33 mol), hydrobromic acid (1458.1 g, 48%, 8.65 mol), and potassium bromide (45.0 g, 0.378 mol) were stirred for 112 h at 110° C. The flask was fitted with a sodium sulfite scrubber for containment of methyl bromide. The lower aqueous layer was removed and the molten product layer was worked up to give bis(4-hydroxyphenyl)-(4-methylphenyl)phosphine oxide mixture as a tan powder (292.8 g, 77% yield). m.p. (DSC): 142.5° C. 31P NMR (d6-DMSO): 28.33 (s, 90.1%), 28.14 (s, 9.86%). LC(area %, THF:MeCN:water, 5:15:30): 16.2, 48.9, 20.1.

reactant | bis(4-methoxyphenyl)(4-methylphenyl)phosphine oxide | 1.33 mol, 470.2 g | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)C)(C1=CC=C(C=C1)OC)=O | C21H21O3P
reactant | hydrobromic acid | 8.65 mol, 1458.1 g | Br | BrH
reactant | potassium bromide | 0.378 mol, 45.0 g | [Br-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl bromide | CBr | CH3Br
product | bis(4-hydroxyphenyl)-(4-methylphenyl)phosphine oxide | 292.8 g, 77% yield | OC1=CC=C(C=C1)P(C1=CC=C(C=C1)C)(C1=CC=C(C=C1)O)=O | C19H17O3P
